US07067535B2
In 70 ml of toluene were suspended 320 mg of 2-methoxy-5-bromobenzaldehyde, 570 mg of 2-trifluoromethylphenylboric acid, 45 mg of palladium acetate and 136 mg of tri-o-tollylphosphine under nitrogen atmosphere, and then, 3.3 ml of 2M aqueous sodium carbonate solution was added to the suspension, and a small amount of ethanol was further added thereto. The obtained solution was heated up to 70° C., and stirred for 16 hours. The reaction mixture was cooled to room temperature, and the formed black precipitates were removed by filtration. The filtrate was washed with an aqueous sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The concentrated residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=10/1) and crystallized from diisopropyl ether and n-hexane to give 298 mg of 2-methoxy-5-(2-trifluoromethylphenyl)benzaldehyde.

reactant | 2-methoxy-5-bromobenzaldehyde | 320 mg | COC1=C(C=O)C=C(C=C1)Br | C8H7BrO2
reactant | 2-trifluoromethylphenylboric acid | 570 mg | FC(C1=C(C=CC=C1)OB(O)O)(F)F | C7H6BF3O3
reactant | sodium carbonate | 2M, 3.3 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 45 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-methoxy-5-(2-trifluoromethylphenyl)benzaldehyde | 298 mg | COC1=C(C=O)C=C(C=C1)C1=C(C=CC=C1)C(F)(F)F | C15H11F3O2
